US07790751B2
A solution of 4-[3-(1-naphthylsulfonylmethyl)-4-nitrophenoxy]piperidin-1-ylcarboxylic acid benzyl ester (3.90 g, 6.96 mmol) in ethyl acetate was treated sequentially with ethanol and tin (II) chloride dihydrate (24.0 g, 106 mmol), stirred at 75° C. under nitrogen for 3 hours and concentrated in vacuo. The resultant residue was partitioned in ethyl acetate and water. The phases were separated; the organic phase was washed with 2.5 N sodium hydroxide and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo for 20 minutes at 78° C. to yield 4-[4-amino-3-(naphthalene-1-sulfonylmethyl)-phenoxy]-piperidine-1-carboxylic acid benzyl ester as a dark yellow film, 3.3 g (89% yield), Mass spectrum (+EI, [M+H]+) m/z 531. 1HNMR (500 MHz, DMSO-d6): δ8.57 (d, 1H, J=8.54 Hz), 8.24 (d, 1H, J=8.17 Hz), 8.03-8.06 (m, 1H), 8.00 (dd, 1H, J=7.44 Hz and 1.22 Hz), 7.58-7.69 (m, 3H), 7.27-7.38 (m, 5H), 6.53-6.58 (m, 2H), 5.97 (d, 1H, J=2.56 Hz), 5.04 (s, 2H), 4.71 (s, 2H), 4.64 (s, 2H), 3.61-3.66 (m, 1H), 3.47-3.53 (m, 2H), 2.99-3.05 (m, 2H), 1.43-1.48 (m, 2H), 1.10-1.19 ppm (m, 2H).

reactant | 4-[3-(1-naphthylsulfonylmethyl)-4-nitrophenoxy]piperidin-1-ylcarboxylic acid benzyl ester | 6.96 mmol, 3.90 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)OC1=CC(=C(C=C1)[N+](=O)[O-])CS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C30H28N2O7S
reactant | ethanol | C(C)O | C2H6O
reactant | tin (II) chloride dihydrate | 106 mmol, 24.0 g | O.O.[Sn](Cl)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[4-amino-3-(naphthalene-1-sulfonylmethyl)-phenoxy]-piperidine-1-carboxylic acid benzyl ester | 89% yield | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)OC1=CC(=C(C=C1)N)CS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C30H30N2O5S
